US05708001
To a toluene solution of dimethylzinc (150 mL, 2.0M, 0.30 mol) at -78° C. is added a CH2Cl2 solution of titanium tetrachloride (150 mL, 1.0 M, 0.15 mol) and after stirring for 30 min 4-trifluoromethyl-α,α-dimethylbenzyl chloride (83.3 g, 0.373 mol) in CH2Cl2 (100 mL) is added dropwise over 20 min. After the addition is complete the reaction is allowed to warm to -40° C. over 1.5 h. After an additional 2 h at -40° C. the brown reaction mixture is carefully poured onto crushed ice, extracted with CH2 Cl2 (2×500 mL), the combined extracts dried over MgSO4 and concentrated to give 4-trifluoromethyl-t-butylbenzene; yield: 60.3 g (80%). Anal. Calcd. for C11H13F3 : C, 65.32; H, 6.48. Found: C, 65.11; H, 6.38.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | dimethylzinc | 0.30 mol, 2.0M, 150 mL | C[Zn]C
reactant | 4-trifluoromethyl-α,α-dimethylbenzyl chloride | 0.373 mol, 83.3 g | FC(C1=CC=C(C(C)(C)Cl)C=C1)(F)F | C10H10ClF3
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | 0.15 mol, 1.0 M, 150 mL | [Ti](Cl)(Cl)(Cl)Cl
product | 4-trifluoromethyl-t-butylbenzene | FC(C1=CC=C(C=C1)C(C)(C)C)(F)F | C11H13F3
